US06008213
Preparation of (±)-10,11-dihydro-3-[3-(2-benzimidazolyl)-1-propyl]-5H-dibenzo[a,d]cycloheptene-10-acetic acid
A mixture of ethyl (±)-10,11-dihydro-3-[3-(2-benzimidazolyl)-1-propyl]-5H-dibenzo[a,d]cycloheptene-10-acetate (236.3 mg, 0.54 mmole), 1.0 N NaOH (0.65 mL, 0.65 mmole), and absolute EtOH (4.8 mL) was warmed in an oil bath preset at 50° C. After 16 hr, the reaction was concentrated to dryness and the residue was purified by ODS chromatography (gradient: 35% MeOH/H2O, then 40% MeOH/H2O). Concentration followed by lyophilization gave the title compound (143 mg, 58%) as a colorless powder: HPLC (PRP-1®, 40% CH3CN/H2O containing 0.1% TFA) K'=1.5; 1H NMR (400 MHz, CD3OD) δ 7.41-7.49 (m, 2 H), 6.86-7.27 (m, 9 H), 4.24 (d, J=14.7 Hz, 1 H), 3.87 (d, J=14.7 Hz, 1 H), 3.73-3.85 (m, 1 H), 3.23-3.25 (m, 1 H, partially obscured by residual solvent signal), 2.80-2.93 (m, 3 H), 2.62 (t, J=7.5 Hz, 2 H), 2.56 (dd, J=14.4, 5.1 Hz, 1 H), 2.40 (dd, J=14.4, 9.7 Hz, 1 H), 2.05-2.17 (m, 2 H); MS (ES) m/e 411 (M+H)+. Anal. Calcd for C27H25N2O2Na. 1.5 H2O: C, 70.57; H, 6.14; N, 6.10. Found: C, 70.65; H, 5.95; N, 5.95.

reactant | ethyl (±)-10,11-dihydro-3-[3-(2-benzimidazolyl)-1-propyl]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.54 mmole, 236.3 mg | N1=C(NC2=C1C=CC=C2)CCCC=2C=CC1=C(CC3=C(C(C1)CC(=O)OCC)C=CC=C3)C2 | C29H30N2O2
reactant | NaOH | 0.65 mmole, 1.0 N, 0.65 mL | [OH-].[Na+]
solvent | EtOH | 4.8 mL | CCO | C2H6O
product | (±)-10,11-dihydro-3-[3-(2-benzimidazolyl)-1-propyl]-5H-dibenzo[a,d]cycloheptene-10-acetic acid | 143 mg, 58% | N1=C(NC2=C1C=CC=C2)CCCC=2C=CC1=C(CC3=C(C(C1)CC(=O)O)C=CC=C3)C2 | C27H26N2O2
